US07618990B2
N-(2-Hydroxy-1,1-dimethylethyl)thiourea (0.75 g, 5 mmol), prepared in step 2 of Example 52, was added to 4-(2-bromo-acetyl)-1-methyl-1H-pyrrole-2-carbonitrile (1.15 g, 5 mmol), prepared in the previous step, in ethanol (20 mL) and the mixture was heated under reflux. After 2 h, the reaction was cooled to room temperature, the precipitate was collected, washed with ethanol, suspended in water and made basic with a 1 N sodium carbonate solution. The mixture was extracted with ethyl acetate, the organic layer was then washed with a 1 N sodium carbonate solution, water, dried (anhydrous MgSO4) and evaporated to afford 4-[2-(2-hydroxy-1,1-dimethyl-ethylamino)-thiazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile (0.92 g, 67%), which was used without further characterization.

reactant | N-(2-Hydroxy-1,1-dimethylethyl)thiourea | 5 mmol, 0.75 g | OCC(C)(C)NC(=S)N | C5H12N2OS
reactant | 4-(2-bromo-acetyl)-1-methyl-1H-pyrrole-2-carbonitrile | 5 mmol, 1.15 g | BrCC(=O)C=1C=C(N(C1)C)C#N | C8H7BrN2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-[2-(2-hydroxy-1,1-dimethyl-ethylamino)-thiazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 0.92 g, 67% | OCC(C)(C)NC=1SC=C(N1)C=1C=C(N(C1)C)C#N | C13H16N4OS
